US04997847
8-(4-Nitrobenzenesulphonamido)octanoic Acid
A solution of 8-aminooctanoic acid in 10% sodium hydroxide solution was treated with 4-nitrobenzenesulphonyl chloride in the manner of Example 2 to give the title compound which, on recrystallisation from aqueous ethanol, had a melting point of 126°-7° C.

reactant | 8-aminooctanoic acid | NCCCCCCCC(=O)O | C8H17NO2
reactant | 4-nitrobenzenesulphonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | sodium hydroxide | [OH-].[Na+]
product | 8-(4-Nitrobenzenesulphonamido)octanoic Acid | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NCCCCCCCC(=O)O | C14H20N2O6S
